US08067408B2
{[3-Bromo-5-(methyloxy)phenyl]methyl}amine
To a solution of 3-bromo-5-(methyloxy)benzamide (4.00 g, 17.4 mmol) in THF (60 mL), BH3.Me2S (2.64 g, 34.8 mol) was added at 0° C. After the end of the addition, the reaction mixture was kept refluxing overnight (monitored by TLC). After cooling to room temperature, EtOH was cautiously added to the reaction mixture. When there no more air bubbles appeared, the mixture was acidified with 1N HCl to pH=2. Then the mixture was stirred at 50° C. for 4 h, filtered and the filter rinsed with water (20 mL×2). The filtrate was washed with EtOAc (50 mL×3). After addition of 2N NaOH (pH=10), the filtrate was extracted with EtOAc (100 mL×3). The combined extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated to give a mixture of solid and oil. MeOH (10 mL) and conc. HCl (10 mL) were added and concentrated to afford crude material as a white solid. Recrystallization from MeOH-Et2O gave the captioned product (3.10 g, 71%), {[3-bromo-5-(methyloxy)phenyl]methyl}amine, as colorless fine needles. 1H NMR (400 MHz, D2O): δ 7.12-7.09 (m, 2 H), 6.86 (s, 1 H), 3.98 (s, 2 H), 3.69 (s, 3 H); 13C NMR (100 MHz, D2O): δ160.2, 135.8, 124.2, 123.0, 117.8, 114.0, 55.8, 42.5; HPLC: retention time: 5.452 min; purity: 97.4% (HPLC).

reactant | 3-bromo-5-(methyloxy)benzamide | 17.4 mmol, 4.00 g | BrC=1C=C(C(=O)N)C=C(C1)OC | C8H8BrNO2
reactant | Me2S | 34.8 mol, 2.64 g | S(C)C | C2H6S
reactant | EtOH | CCO | C2H6O
reactant | HCl | 1N | Cl | ClH
reactant | HCl | 10 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | {[3-Bromo-5-(methyloxy)phenyl]methyl}amine | 3.10 g, 71% | BrC=1C=C(C=C(C1)OC)CN | C8H10BrNO
